US04609673
5-Bromo-3-methylpentanoic acid ethyl ester
A solution of 16.0 g. (0.14 mol) 4-methyl-3,4,5,6-tetrahydro-2-pyranone in 50 ml. anhydrous ethanol is saturated with hydrogen bromide gas at 0°-5° C., left to stand overnight, poured into water and extracted with diethyl ether. The combined ether extracts are dried over anhydrous sodium sulphate and evaporated and the residue is distilled in a vacuum to give 21.9 g. (70% of theory) of the desired product in the form of a colourless liquid; b.p. 85°-87° C./0.1 mm.; nD20 =1.4590.

reactant | 4-methyl-3,4,5,6-tetrahydro-2-pyranone | 0.14 mol | CC1CC(OCC1)=O | C6H10O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen bromide | Br | BrH
solvent | water | O | H2O
product | 5-Bromo-3-methylpentanoic acid ethyl ester | C(C)OC(CC(CCBr)C)=O | C8H15BrO2
